US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-4-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-4-ylcarbamate (271 mg, 0.610 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.610 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 80° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (methanol ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 98.3 mg (44.1%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-4-ylcarbamate | 0.610 mmol, 271 mg | N1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.610 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-4-ylpiperazine-1-carboxamide | 98.3 mg, 44.1% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=CC=NC=C1 | C18H18N6OS
